US04970332
The yield of 2-ethylhexyl-p-methoxycinnamate in the process of the present invention is above about 90%. This is in contrast to the 68% yield reported by Heck et al. in the article described above, in which a homogeneous palladium catalyst was employed to produce methyl-p-methoxycinnamate. Although not wishing to be bound by any theory, it is believed that the interaction of the palladium catalyst and the 2-ethylhexyl ester as opposed to the methyl ester and soluble palladium catalyst of the literature reference, causes this beneficial, unexpected result. A possible explanation of why the reaction yield is so much higher with the process of this invention is that there is a very high affinity of the 2-ethylhexyl acrylate for the carbon support of the palladium on carbon support catalyst. Both species are very nonpolar and hydrophobic and the hydrophobic 2-ethylhexyl chain tends to absorb in the carbon matrix, expediting the reaction of the acrylate function with the palladium surface. By contrast, the methyl function of methyl acrylate has no specific attraction to the soluble palladium acetate species and yield-consuming side reactions inevitably occur.

reactant | 2-ethylhexyl-p-methoxycinnamate | C(C)C(COC(C=CC1=CC=C(C=C1)OC)=O)CCCC | C18H26O3
catalyst | palladium | [Pd] | Pd
product | methyl-p-methoxycinnamate | 68% yield | COC(C=CC1=CC=C(C=C1)OC)=O | C11H12O3
